US07557114B2
(c) 5-Methanesulfonyl-2-((S)-2,2,2-trifluoro-1-methyl-ethoxy)-benzoic acid
To 0.604 mmol 5-methanesulfonyl-2-((S)-2,2,2-trifluoro-1-methyl-ethoxy)-benzoic acid methyl ester in 1.97 ml ethanol was added 1.21 mmol 2 N aq NaOH solution and the reaction mixture was stirred at 80° C. for 0.5 hour. After such time the solvent was removed in vacuo, the residue was taken in water and acidified by addition of 2N HCl to yield after filtration the title compound as a white solid (88%).MS (m/e): 311.0 ([M−H]−, 100%)

reactant | 5-methanesulfonyl-2-((S)-2,2,2-trifluoro-1-methyl-ethoxy)-benzoic acid methyl ester | 0.604 mmol | COC(C1=C(C=CC(=C1)S(=O)(=O)C)O[C@H](C(F)(F)F)C)=O | C12H13F3O5S
reactant | NaOH | 1.21 mmol, 2 N | [OH-].[Na+]
solvent | ethanol | 1.97 ml | C(C)O | C2H6O
product | 5-Methanesulfonyl-2-((S)-2,2,2-trifluoro-1-methyl-ethoxy)-benzoic acid | CS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)O[C@H](C(F)(F)F)C | C11H11F3O5S
